US05135953
Into a magnetically stirred solution of 4-(4-chloro-1-naphthoxy)-3,5-dichloroaniline (6.00 grams, 17.72 mmol) prepared in Part B in benzene (50 milliliters) was added solid N-chlorosuccinimide (2.84 grams, 21.20 mmol). The mixture was heated to reflux for 1 hour, cooled and filtered. The solvent was evaporated under reduced pressure and the crude product when subjected to flash column chromatography (3:1 hexane:ethyl acetate) afforded pure 4-(4-chloronaphthoxy)-2,3,5-trichloroaniline (3.70 grams, 9.92 mmol, 56%). Elemental analysis of the product indicated the following:

reactant | 4-(4-chloro-1-naphthoxy)-3,5-dichloroaniline | 17.72 mmol, 6.00 grams | ClC1=CC=C(C2=CC=CC=C12)OC1=C(C=C(N)C=C1Cl)Cl | C16H10Cl3NO
reactant | N-chlorosuccinimide | 21.20 mmol, 2.84 grams | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
product | 4-(4-chloronaphthoxy)-2,3,5-trichloroaniline | 9.92 mmol, 3.70 grams, 56% | ClC1=CC=C(C2=CC=CC=C12)OC1=C(C(=C(N)C=C1Cl)Cl)Cl | C16H9Cl4NO
